* SSM6322 MACROMODEL
* Description: High Fidelity Audio Amplifier
* Developed by: ADI PN
* Revision History: 3/10/2017 - Rev.1
* 					5/23/2017 - Rev.1.1 
* Copyright 2013 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled: 
*	Temperature
*	PSRR
*	CMRR
* Parameters modeled include: 
*	Offset Voltage
*	Bias Current
*	Voltage Noise
*	Open-Loop response
*	Gain vs. Frequency
*	Slew Rate	
*	THD
*	Input Common Mode Voltage Range
*	Output Current Sink/Source
*	Output Current vs Supply
*	Power Down/Shut Down Functionality
* END Notes
*
*
*
*
.subckt SSM6322 VN1 VP1 GND1 GND2 VP2 VN2 GAIN2 FILT2 REF2 GND3 VEE2 VCC2 VOUT2 VNFB2 SD2 SD VNFB1 VOUT1 VCC1 VEE1 GND4 REF1 FILT1 GAIN1
*
*
*
*Channel 1
*
*
S9 21 VEE1 SD2 0 SW

dD23 38 VCC1 Diode

dD22 37 VCC1 Diode

iI16 VCC1 38 dc 0.0016

S2 38 21 SD 0 SW

S1 37 VEE1 SD2 0 SW

iI15 VCC1 37 dc 0.001385

eV21 0 VEEin1 0 VEE1 1

eV2 VCCin1 0 VCC1 0 1

iI11 VCC1 VEE1 dc 1.5e-005

S12 22 VOUT1 SD2 0 SW

S11 VNFB1 31 SD2 0 SW

S10 FILT1 30 SD2 0 SW

iI18 REF1 0 dc 1.5e-005

rR17 39 20 100 

rR16 0 15 0.13234 

dD7 17 15 DiodeNoise

gI17 0 39 13 0 1

vV36 VCCin1 50 dc 4.2

vV35 51 VEEin1 dc 4.2

dD27 51 44 Diode

dD26 44 50 Diode

vV38 VCCin1 53 dc 4.2

vV37 54 VEEin1 dc 4.2

dD29 54 8 Diode

dD28 8 53 Diode

vV28 VCCin1 46 dc 4.2

vV27 47 VEEin1 dc 4.2

dD25 47 45 Diode

dD24 45 46 Diode

S8 31 44 SD 0 SW

S7 30 45 SD 0 SW

S6 42 22 SD 0 SW

S5 20 GAIN1 SD2 0 SW

S4 VN1 VN1in SD2 0 SW

S3 VP1 VP1in SD2 0 SW

vV26 VCCin1 28 dc 2.3

vV25 18 VEEin1 dc 2.3

dD21 18 25 Diode

dD20 25 28 Diode

rR14 0 23 1000

gI10 0 23 VOUTraw 0 0.001

dD19 35 23 Diode

dD18 23 27 Diode

vV24 29 35 dc 1.25

vV23 27 29 dc 1.75

HV22 29 19 V22 10
V22 26 19 0 

dD17 VCC1 32 Diode

dD16 36 0 Diode

dD15 36 VEE1 Diode

dD14 0 32 Diode

rR13 36 0 1000000000 

rR12 32 0 1000000000 

FI13 0 36 VI13 1
VI13 25 24 0

FI12 0 32 VI12 1
VI12 24 26 0

rR11 25 42 100

eV16 19 0 23 0 1

cC4 VOUTraw 0 2.6526e-009

rR4 VOUTraw 0 1 

gI4 0 VOUTraw 4 0 1

cC3 0 4 6.3662e-009

rR3 0 4 1000000

gI3 0 4 45 44 1

iI14 0 VN1in dc 3.24e-006

cC8 16 0 1e-007

rR10 16 0 1000000000

gI9 0 16 VALUE={LIMIT(1*V(9,16),1.4,-1.4)}

vV13 17 0 dc 0.25

HV12 9 7  V12 10
V12 0 15 0

vV11 VCCin1 12 dc 2.3

vV10 14 VEEin1 dc 2.3

dD6 14 39 Diode

dD5 39 12 Diode

EV9 13 0 Value = { (V(GAIN1dist)*V(GAIN1dist))+V(GAIN1raw) }

lL1 11 GAIN1dist 1.5

rR9 0 11 10 

gI8 0 GAIN1dist GAIN1raw 0 1e-008

eV8 10 0 REFout1 0 1

iI7 VP1in 0 dc 3.24e-006

cC7 VP1in VN1in 2e-012

vV6 VP1in 7 dc 9e-005

vV5 VCCin1 5 dc 4.2

vV4 6 VEEin1 dc 4.2

dD4 6 VP1in Diode

dD3 VP1in 5 Diode

vV3 VCCin1 1 dc 4.2

vV1 2 VEEin1 dc 4.2

dD2 2 VN1in Diode

dD1 VN1in 1 Diode

rR8 VP1in 10 1250

rR7 VN1in 10 1250

cC6 REFout1 0 2.6526e-009

rR6 REFout1 0 1 

gI6 0 REFout1 8 0 1

cC5 0 8 6.3662e-009

rR5 0 8 1000000

gI5 0 8 REF1 VP1in 1

cC2 GAIN1raw 0 2.6526e-009

rR2 GAIN1raw 0 1

gI2 0 GAIN1raw 3 0 1

cC1 0 3 6.3662e-009

rR1 0 3 1000000

gI1 0 3 16 VN1in 1

.model Diode  D

.model DiodeNoise  D
+ (
+  KF=1.5e-008 AF=1
+ )
*
*
*Channel 2
*
S21 58 VEE2 SD2 0 SW

dD39 43 VCC2 Diode

dD38 40 VCC2 Diode

iI34 VCC2 43 dc 0.0016

S14 43 58 SD 0 SW

S13 40 VEE2 SD2 0 SW

iI33 VCC2 40 dc 0.001385

eV34 0 VEEin2 0 VEE2 1

eV33 VCCin2 0 VCC2 0 1

iI26 VCC2 VEE2 dc 1.5e-005

S24 88 VOUT2 SD2 0 SW

S23 VNFB2 90 SD2 0 SW

S22 FILT2 89 SD2 0 SW

iI36 REF2 0 dc 1.5e-005

rR32 61 87 100

rR31 0 64 0.13234

dD46 66 64 DiodeNoise

gI35 0 61 60 0 1

vV50 VCCin2 95 dc 4.2

vV49 96 VEEin2 dc 4.2

dD45 96 68 Diode

dD44 68 95 Diode

vV48 VCCin2 93 dc 4.2

vV47 94 VEEin2 dc 4.2

dD43 94 41 Diode

dD42 41 93 Diode

vV46 VCCin2 91 dc 4.2

vV45 92 VEEin2 dc 4.2

dD41 92 67 Diode

dD40 67 91 Diode

S20 90 68 SD 0 SW

S19 89 67 SD 0 SW

S18 73 88 SD 0 SW

S17 87 GAIN2 SD2 0 SW

S16 VN2 VN1in_1 SD2 0 SW

S15 VP2 VP2in SD2 0 SW

vV44 VCCin2 82 dc 2.3

vV43 83 VEEin2 dc 2.3

dD37 83 74 Diode

dD36 74 82 Diode

rR30 0 71 1000

gI32 0 71 VOUT2raw 0 0.001

dD35 81 71 Diode

dD34 71 80 Diode

vV42 79 81 dc 1.25

vV41 80 79 dc 1.75

HV40 79 72 V40 10
V40  75 72 0

dD33 VCC2 77 Diode

dD32 78 0 Diode

dD31 78 VEE2 Diode

dD30 0 77 Diode

rR29 78 0 1000000000

rR28 77 0 1000000000

FI31  0 78 VI31 1
VI31 74 76 0

FI30 0 77 VI30 1
VI30 76 75 0

rR27 74 73 100

eV39 72 0 71 0 1

cC16 VOUT2raw 0 2.6526e-009

rR26 VOUT2raw 0 1

gI29 0 VOUT2raw 69 0 1

cC15 0 69 6.3662e-009

rR25 0 69 1000000

gI28 0 69 67 68 1

iI27 0 VN1in_1 dc 3.24e-006

cC14 33 0 1e-007

rR24 33 0 1000000000

gI25 0 33 VALUE={LIMIT(1*V(65,33),1.4,-1.4)}

vV32 66 0 dc 0.25

HV31 65 57 V31 10
V31 0 64 0

vV30 VCCin2 62 dc 2.3

vV29 63 VEEin2 dc 2.3

dD13 63 61 Diode

dD12 61 62 Diode

EV20 60 0 Value = { (V(GAIN2dist)*V(GAIN2dist))+V(GAIN2raw) }

lL2 59 GAIN2dist 1.5

rR23 0 59 10

gI24 0 GAIN2dist GAIN2raw 0 1e-008

eV19 48 0 REFout2 0 1

iI23 VP2in 0 dc 3.24e-006

cC13 VP2in VN1in_1 2e-012

vV18 VP2in 57 dc 9e-005

vV17 VCCin2 55 dc 4.2

vV15 56 VEEin2 dc 4.2

dD11 56 VP2in Diode

dD10 VP2in 55 Diode

vV14 VCCin2 49 dc 4.2

vV7 52 VEEin2 dc 4.2

dD9 52 VN1in_1 Diode

dD8 VN1in_1 49 Diode

rR22 VP2in 48 1250

rR21 VN1in_1 48 1250

cC12 REFout2 0 2.6526e-009

rR20 REFout2 0 1

gI22 0 REFout2 41 0 1

cC11 0 41 6.3662e-009

rR19 0 41 1000000

gI21 0 41 REF2 VP2in 1

cC10 GAIN2raw 0 2.6526e-009

rR18 GAIN2raw 0 1

gI20 0 GAIN2raw 34 0 1

cC9 0 34 6.3662e-009

rR15 0 34 1000000

gI19 0 34 33 VN1in_1 1

.model SW Vswitch(Von=1.5 Voff=0.75 Ron=0.0001 Roff=1000000000)
.Ends
