* AD8010an SPICE Macro-model       
* Description: Amplifier
* Generic Desc: 150 MHz 160 mA output video amplifier
* Developed by: TRW/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (01/1999)                                       
* Copyright 1999, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     distortion is not characterized
*
* Parameters modeled include: 
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8010   1 2 99 50 24    

* INPUT STAGE

v1   8 2 0
i1   99 5 1.04e-3
i2   4 50 1.04e-3
q1   50 3 5 qp
q2   99 3 4 qn
q3   99 5 8 qn
q4   50 4 8 qp

* input error sources
 
fn   99  2 vn4 1e-3
ib1  2 99 10e-6   
ib2  3 99 6e-6
eos  3 1 poly(1) 32 98 5e-3 1
*vos 3 1 0
cs3  98  2     2.75e-12
cs4  98  3     2.75e-12

* Gain stage and dominant pole @ 165kHz

fgain 98 12 poly(1) vl1 0 2 
r5   12 98 500k
c4   12 98 1.93e-12
v3   99 13 2.75
v4   14 50 2.75
d3   12 13 dx
d4   14 12 dx

* Pole @ 350MHz

gpole2 98 80 12 98 1
rpole2 98 80 1
cpole2 98 80 454p

* Slew Rate limiting stage

fl1 98 70 v1 1
dl1 70 98 dx
dl2 98 70 dx
dl3 70 72 dx
dl4 72 70 dx
vl1 72 73 0
rl1 73 98 8

* v noise generator

vn1 30 98 0.555
dn1 30 31 dn1
rn1 31 98 1
vn2 31 98 0 

fn1 32 98 vn2 1
rn2 32 98 1

* i noise generation

vn3 33 98 0.65
dn2 33 34 dn1
rn3 34 98 4.2e-3
vn4 34 98 0

fn2 35 98 vn4 1
rn4 35 98 1

* buffer stage

g13 98 17 80 98 1e-2 
rbuf 17 98 100

* reference stage

eref1 98 0 poly(2) 99 0 50 0 0 0.5 0.5 

* current mirroring on supplies

fo3 98 300 vo1 1
vi1 311 98 0
vi2 98 312 0
dm1 300 311 dx
dm2 312 300 dx

* output stage

r15 23 90  2
r16 23 91  2
vo1 23 24  0
vo2 99 90  0
vo3 91 50  0
fo1 0 99 poly(2) vo2 vi1 -12e-3 1 -1
fo2 50 0 poly(2) vo3 vi2 -12e-3 1 -1
rl  24 98  1e6
g11 23 90  99 17 0.5
g12 23 91  50 17 0.5
v5  19 23  0.565
v6  23 20  0.565
d5  19 17  dx
d6  17 20  dx

* models

.model qn npn()
.model qp pnp()
.model dx  d()
.model dn1 d(af=1 kf=1e-10)
.ends ad8010




