* AD8057 SPICE model
* Description: Amplifier
* Generic Desc: Single supply 350MHz op amp
* Developed by: 
* Revision History: 08/10/2012 - Updated to new header style
* 
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*       distortion is not characterized
*
* Parameters modeled include:
*       open loop gain and phase vs. frequency
*       output impedance vs. frequency
*       output clamping voltage and current
*       input common mode range
*       slew rate
*       output currents are reflected to V supplies
*       Vos is static and will not vary
*       step response is modeled at unity gain w/1k load
* 
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT AD8057 1 2 99 50 30


* COMMON-MODE GAIN NETW0RK
Ecm 20 15 POLY(2) 2 15 1 15 0 .5 .5 
Gcm 15 21 20 15 .4e-6
L4 21 23 1e-3
R9 23 15 1k

* INPUT STAGE
Eos 9 2 POLY(1) 21 15 2.5e-3 1
Ios 2 1 0.75e-6
Cin 1 0 2e-12
Q1 5 1 10 QIN
Q2 6 9 11 QIN
R3 99 5 2573 
R4 99 6 2573
R5 10 4 2538
R6 11 4 2538
I1 4 50 1.5e-3

* GAIN STAGE & POLE AT 220 kHz
Eref 15 0 POLY(2) 99 0 50 0 0 .5 .5 
G1 13 15 5 6 0.3m
R7 13 15 1.4Meg
C3 13 15 0.5p
V1 99 14 0.7
V2 16 50 0.7
D1 13 14 DX
D2 16 13 DX

*POLE AT 2200 MHz
G2 15 43 13 15 9.3m
R10 15 43 145
C5 15 43 0.5p

*POLE AT 2200 MHz
G3 15 53 43 15 9.3m
R11 15 53 145
C6 15 53 0.5p

* BUFFER STAGE
Gbuf 15 32 53 15 1e-3
Rbuf 32 15 1000

* OUTPUT STAGE
R18 25 99 .34
R19 25 50 .34
Vcd 30 25 0
G6 25 99 99 32 2.94
G7 50 25 32 50  2.94
V4 26 25 -0.758
V5 25 27 -0.758
D5 32 26 Dx
D6 27 32 DX

Fo1 15 70 vcd 1
D7 70 71 DX
D8 72 70 DX
Vi1 15 71 0
Vi2 72 15 0

Erefq 96 0 30 0 1 
Iq 99 50 -.859m
Fq1 99 96 POLY(2) Vi2 Vcd 0 -1 0.5
Fq2 96 50 POLY(2) Vi1 Vcd 0 -1 -0.5

.MODEL QIN NPN(BF=1000 VA=200 IS=0.5E-16)
.MODEL DX D(IS=1e-15) 
.ENDS



