* AD8145  SPICE Macro-model   
* Description: Amplifier
* Generic Desc: High Speed Triple Receiver
* Developed by: CK / ADI, TRW / ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (07/2007) (05/2003)
* Copyright 2002, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with
*
* BEGIN Notes:
*
* Not Modeled:
*  Noise is not modelled
*  Distortion is not modelled
*    
* Parameters modeled include:
*  The following characteristics are modeled:
*  Bandwidth (500MHz for LS and 270MHz for SS)
*  Slew Rate (2000 v/us at 2Vp-p)
*  Input Bias Current
*  Offset Voltage
*  Output Swing (-4V, +3.5V)
*
* END Notes
*
* Node assignments
*                IN+ input
*                | IN- input
*                | | REF input
*                | | | FB input
*                | | | |  V+
*                | | | |  |  V-
*                | | | |  |  |  out
*                | | | |  |  |  |
.SUBCKT AD8145   1 2 3 4a 99 50 45
Rf 45 4 350
Rg 4 4a 350
Cg 4 4a 0.8pF
*
* INPUT STAGE
*
Q1   17  1   9   QX
Q2   18  11  10  QX
R1   9   12  1150
R2   10  12  1150
I1   12  50   2E-3
Dcm1 95 12 dx
Vcm1 95 50 2.4
Dcm2 94 16 dx
Vcm2 94 50 2.4
EOS1 2   11  POLY(1) (31,98)  1.5E-3  1
IOS1 1   2   0.08u
C1   1   2   3E-12
RD1  1   2   6E6
*
* REF/FB INPUT STAGE
*
Q3   17  3   14  QY
Q4   18  13  15  QY
R3   14  16  1150
R4   15  16  1150
I2   16  50   2E-3
VOS2 4   13  1.5E-3
IOS2 3   4   0.08u
C2   3   4   2E-12
RD2  3   4   1.93E6
VC1  32  17  DC  0.7
VC2  33  18  DC  0.7
D7   99   32  DX
D8   99   33  DX
*
* TRANSCONDUCTANCE STAGE & DOMINANT POLE AT 350 KHZ
*
R7   19  98  6E6
C3   19  98  .45E-12
F1   98  19  POLY(2)  VC1  VC2  0   1   -1
V2   99   20  2
V3   21  50   1.5
D1   19  20  DX
D2   21  19  DX
*
* POLE AT 500 MHZ
*
R6   23  98   100k
C4   23  98   1f
G2   98  23   19  98  1e-5
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 100 KHZ
*
R10  30  31   1E6
R11  31  98   1
C7   30  31   3.18E-12
E3   98  30   POLY(2)  (1,98) (2,98)  0  5  5
*
* OUTPUT STAGE
*
Eref 98 0 poly(2) 50 0 99 0 0 0.5 0.5
FSY  99   50   POLY(2) V7 V8 10E-3 1 1
R15  29  99   12
R16  29  50   12
L1   29  45   6E-10
G7   29  99   99  23  83.3e-3
G8   50  29   23  50  83.3e-3
V4   25 29   -.332
V5   29 26   -.3
D3   23 25  DX
D4   26 23  DX
G5   98 70   29 23 2.94E-2
D5   70 71   DX
D6   72 70   DX
V7   71 98   DC 0
V8   98 72   DC 0
*
* MODELS USED
*
.MODEL QX NPN(BF=400)
.MODEL QY NPN(BF=200)
.MODEL DX   D(IS=1E-15)
.ENDS
*$




